US07598423B2
Synthesis of 3-[5-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-[1,2,4]oxadiazol-3-ylmethyl]-benzoic acid
Combine 1-{2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-3-methyl-phenyl}-ethanone (150 mg, 0.32 mmol), sodium dodecyl sulfate (300 mg, 1.0 mmol), K2CO3 (45 mg, 0.32 mmol), 1-butanol (200 μL), and 1 drop of toluene in H2O (4 mL) in a pressure vessel, then degas with Ar for 5 min. Add PdCl2(MeCN)2 (18 mg, 0.07 mmol) to the reaction mixture. Exchange the atmosphere with carbon monoxide and heat the mixture to 70° C. under 20 psi of carbon monoxide. The reaction is heated until complete. Filter the black mixture through filter cel. Acidify the filtrate with 5 N hydrochloric acid to pH=1. A milky white mixture forms. Add a small amount of methanol to induce crystallization Collect the crystals by filtration to give the title compound (79 mg, 65%). 1H NMR (DMSO-d6) δ 12.99 (s, 1H), 12.79 (s, 1H), 7.86 (m, 1H), 7.79 (m, 2H), 7.52 (m, 1H), 7.42 (dd, 1H), 6.67 (d, 1H), 5.60 (s, 2H), 4.19 (s, 2H), 2.55 (s, 3H), 1.99 (s, 3H). LC-MS (m/e): 381 (M−1).

reactant | 1-{2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-3-methyl-phenyl}-ethanone | 0.32 mmol, 150 mg | OC1=C(C=CC(=C1C)OCC1=NC(=NO1)CC1=CC(=CC=C1)I)C(C)=O | C19H17IN2O4
reactant | sodium dodecyl sulfate | 1.0 mmol, 300 mg | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | K2CO3 | 0.32 mmol, 45 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | carbon monoxide | [C]=O | CO
catalyst | toluene | 1 drop | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 4 mL | O | H2O
catalyst | PdCl2(MeCN)2 | 0.07 mmol, 18 mg | CC#N.CC#N.Cl[Pd]Cl
solvent | 1-butanol | 200 μL | C(CCC)O | C4H10O
product | 3-[5-(4-acetyl-3-hydroxy-2-methyl-phenoxymethyl)-[1,2,4]oxadiazol-3-ylmethyl]-benzoic acid | 79 mg, 65% | C(C)(=O)C1=C(C(=C(OCC2=NC(=NO2)CC=2C=C(C(=O)O)C=CC2)C=C1)C)O | C20H18N2O6
